US06326386B1
4-((2-Carbamoyl-phenyl)-{3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-amino)-butyric acid
2M Aqueous sodium hydroxide (0.200 ml) was added to a stirred solution of 4-((2-carbamoyl-phenyl)-{3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-amino)-butyric acid methyl ester trifluoroacetate (0.030 g) in 1,4-dioxan (1 ml). 2M Aqueous hydrochloric acid (0.2 ml) was added after 16 h. The reaction mixture was evaporated in vacuo and the residue was subjected to preparative hplc to give the title compound (0.024 g) as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | sodium hydroxide | 2M, 0.200 ml | [OH-].[Na+]
reactant | 4-((2-carbamoyl-phenyl)-{3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-amino)-butyric acid methyl ester trifluoroacetate | 0.030 g | FC(C(=O)O)(F)F.COC(CCCN(C(C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)Cl)=O)C1=C(C=CC=C1)C(N)=O)=O
reactant | hydrochloric acid | 2M, 0.2 ml | Cl | ClH
solvent | 1,4-dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | 4-((2-Carbamoyl-phenyl)-{3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-amino)-butyric acid | 0.024 g | C(N)(=O)C1=C(C=CC=C1)N(CCCC(=O)O)C(C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)Cl)=O | C25H25ClN4O5
